US05250526
2.36 g of N-(11-hydroxy-1-undecanyl)-6-chloronicotinamide and 3.15 g of piperazine were suspended in 50 ml of toluene and the suspension was stirred at 120°-130° C. for 5 hrs. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (chloroform:methanol=5:1) to obtain quantitatively N-(11-hydroxy-1-undecanyl)-6-piperazinylnicotinamide. This compound was added under ice-cooling to 10 ml of fuming nitric acid and the mixture was stirred below 5° C. for 4 hrs. This reaction mixture was poured into an aqueous sodium hydrogencarbonate, extracted with methylene chloride, washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography (chloroform:methanol=5:1) and recrystallized from chloroform/hexane to give 0.5 g (15%) of the title compound.

reactant | N-(11-hydroxy-1-undecanyl)-6-chloronicotinamide | 2.36 g | OCCCCCCCCCCCNC(C1=CN=C(C=C1)Cl)=O | C17H27ClN2O2
reactant | piperazine | 3.15 g | N1CCNCC1 | C4H10N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(11-hydroxy-1-undecanyl)-6-piperazinylnicotinamide | OCCCCCCCCCCCNC(C1=CN=C(C=C1)N1CCNCC1)=O | C21H36N4O2
